* File: pc3c01.dist.sp.pex
* Created: Sun Jul  4 13:38:50 2010
* Program "Calibre xRC"
* Version "v2008.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_PC3C01%VDD 254 259 266 271 278 309 319 343 352 360 368 371 377
c0 377 0 90.7456f
c1 368 0 37.0758f
c2 354 0 28.6898f
c3 352 0 34.7601f
c4 348 0 8.69415f
c5 345 0 12.1469f
c6 341 0 12.275f
c7 319 0 1.43041f
c8 309 0 1.53395f
c9 301 0 1.87647f
c10 298 0 0.0688148f
c11 297 0 0.0681392f
c12 285 0 1.93198f
c13 283 0 9.8567f
c14 278 0 3.3652f
c15 275 0 3.62906f
c16 271 0 1.78679f
c17 266 0 5.30676f
c18 263 0 0.347475f
c19 259 0 1.78235f
c20 254 0 3.36159f
c21 250 0 5.97731f
c22 249 0 1.81505f
c23 243 0 1.92039f
c24 242 0 1.68387f
c25 235 0 4.30454f
c26 234 0 0.250593f
c27 158 0 31.7103f
c28 153 0 32.0627f
c29 139 0 12.6172f
c30 134 0 3.78036f
c31 117 0 0.584321f
c32 113 0 5.43498f
c33 110 0 2.82578f
c34 106 0 0.973281f
c35 105 0 0.815366f
c36 104 0 1.02198f
c37 103 0 1.2337f
c38 101 0 36.9927f
c39 7 0 27.3944f
r40 375 377 0.000462331 
r41 374 375 0.0825499 
r42 371 374 0.000695428 
r43 365 366 0.0152277 
r44 364 365 0.382878 
r45 354 355 0.11055 
r46 357 352 0.00897078 
r47 352 355 0.186408 
r48 348 352 0.102913 
r49 345 365 0.0444444 
r50 345 343 0.0233604 
r51 341 343 0.0234531 
r52 341 364 0.0444444 
r53 327 368 0.00261566 
r54 366 327 0.0264481 
r55 325 327 0.6 
r56 323 325 0.179048 
r57 323 375 0.0925926 
r58 319 323 0.0787302 
r59 317 364 0.0422587 
r60 360 317 0.00415301 
r61 315 317 0.6 
r62 313 315 0.141 
r63 313 374 0.0925926 
r64 309 313 0.062 
r65 307 354 0.0675728 
r66 352 307 0.00828479 
r67 305 307 0.0307692 
r68 302 343 0.0598841 
r69 301 345 0.0367092 
r70 293 294 0.0444863 
r71 352 293 0.00452403 
r72 291 352 0.0399623 
r73 286 343 0.0597914 
r74 285 341 0.0367092 
r75 283 296 0.157116 
r76 294 283 0.095476 
r77 283 352 0.193619 
r78 282 300 0.141997 
r79 282 352 0.201297 
r80 294 278 4.6725 
r81 276 298 0.00756288 
r82 275 302 0.108454 
r83 275 276 0.538634 
r84 270 298 0.049467 
r85 270 271 3.2 
r86 293 266 4.6725 
r87 264 297 0.00756288 
r88 263 298 0.00756288 
r89 263 264 0.0977245 
r90 258 297 0.049467 
r91 258 259 3.2 
r92 291 254 4.6725 
r93 250 352 0.0703641 
r94 249 282 0.0733192 
r95 249 352 0.0896359 
r96 247 291 0.095476 
r97 289 247 0.157097 
r98 247 352 0.193204 
r99 250 246 0.0733192 
r100 287 246 0.141979 
r101 246 352 0.201712 
r102 243 286 0.108454 
r103 243 343 0.29913 
r104 242 297 0.00756288 
r105 242 343 0.238509 
r106 236 343 0.285412 
r107 235 343 0.250588 
r108 234 357 0.02 
r109 158 296 0.0224788 
r110 158 300 0.021751 
r111 153 289 0.0224788 
r112 153 287 0.021751 
r113 139 305 0.603333 
r114 137 139 0.666667 
r115 134 137 0.581161 
r116 134 366 0.133333 
r117 123 300 0.100223 
r118 121 287 0.100241 
r119 352 121 0.0497662 
r120 234 117 0.0464401 
r121 113 123 0.0504102 
r122 113 352 0.00593918 
r123 112 348 0.02 
r124 112 352 0.0405009 
r125 110 289 0.0923738 
r126 117 109 0.0504102 
r127 109 296 0.092355 
r128 105 110 0.0504102 
r129 105 106 0.0464401 
r130 103 352 0.000644007 
r131 103 104 0.0464401 
r132 100 106 0.0496984 
r133 100 101 0.401553 
r134 99 104 0.0496984 
r135 99 101 0.479223 
r136 343 7 0.00544953 
r137 7 301 0.0396506 
r138 7 235 0.0385194 
r139 7 285 0.0428655 
r140 7 236 0.0353045 
.ends

.subckt PM_PC3C01%VSS 266 273 280 525 529 535 548 552 553 557 566 572 578
c0 578 0 79.0126f
c1 566 0 1.31546f
c2 557 0 0.0174348f
c3 553 0 5.70554f
c4 552 0 0.0157506f
c5 548 0 10.4503f
c6 532 0 0.916298f
c7 522 0 1.3852f
c8 517 0 7.89977f
c9 509 0 1.16899f
c10 503 0 1.18198f
c11 499 0 32.2359f
c12 495 0 9.93332f
c13 494 0 2.69597f
c14 490 0 2.28864f
c15 486 0 27.8818f
c16 475 0 21.4953f
c17 473 0 0.233073f
c18 469 0 12.6986f
c19 468 0 0.233714f
c20 467 0 5.38684f
c21 464 0 1.52253f
c22 463 0 4.53934f
c23 461 0 21.5462f
c24 460 0 2.55282f
c25 459 0 5.52208f
c26 452 0 2.55282f
c27 451 0 9.20323f
c28 443 0 12.4488f
c29 441 0 3.15046f
c30 440 0 2.45109f
c31 438 0 2.73276f
c32 437 0 1.79663f
c33 435 0 3.81247f
c34 434 0 12.8112f
c35 433 0 0.190476f
c36 432 0 0.469584f
c37 430 0 10.95f
c38 428 0 3.30647f
c39 424 0 2.35379f
c40 423 0 0.202358f
c41 280 0 0.0109358f
c42 273 0 0.0247695f
c43 266 0 0.017169f
c44 180 0 1.24937f
c45 175 0 25.1961f
c46 151 0 6.17108f
c47 142 0 0.163011f
c48 141 0 9.28609f
c49 134 0 0.0965554f
c50 23 0 3.72364f
c51 21 0 1.75766f
c52 18 0 3.78797f
r53 576 578 0.0004676 
r54 575 576 0.0834907 
r55 572 575 0.000703354 
r56 566 569 0.00176944 
r57 566 568 0.0661546 
r58 553 561 0.147289 
r59 558 553 1.296 
r60 569 539 0.00605898 
r61 537 539 0.428571 
r62 535 537 0.24 
r63 532 535 0.0165079 
r64 532 576 0.131579 
r65 527 529 0.428571 
r66 525 527 0.189 
r67 522 525 0.013 
r68 522 575 0.131579 
r69 548 519 0.0357309 
r70 517 519 0.04 
r71 568 517 0.423016 
r72 509 557 1.08 
r73 507 509 6 
r74 507 510 0.167976 
r75 553 506 0.0395 
r76 504 506 0.0196078 
r77 504 507 0.00494516 
r78 503 552 1.08 
r79 501 503 6 
r80 501 504 0.0138784 
r81 500 529 0.0230601 
r82 500 501 0.199003 
r83 499 569 0.02 
r84 499 510 0.0219342 
r85 548 497 0.0357309 
r86 495 497 0.04 
r87 494 529 0.0340795 
r88 494 495 0.469897 
r89 493 519 0.0464965 
r90 492 548 0.0811137 
r91 490 506 0.961 
r92 485 557 1.64 
r93 484 486 0.000874317 
r94 553 484 0.0229508 
r95 484 485 0.02 
r96 481 552 1.64 
r97 480 553 0.0286339 
r98 480 481 0.02 
r99 475 548 0.0306594 
r100 473 553 0.9825 
r101 472 497 0.0464965 
r102 471 548 0.0811137 
r103 468 490 0.0666177 
r104 468 469 0.0511528 
r105 467 470 0.0448283 
r106 467 469 0.0926542 
r107 463 492 0.0447463 
r108 463 548 0.0304053 
r109 464 461 0.00512596 
r110 461 548 0.00642959 
r111 460 461 0.00533333 
r112 459 493 0.0447254 
r113 459 548 0.0302222 
r114 548 453 0.0795429 
r115 475 452 0.0317108 
r116 452 453 0.000457143 
r117 460 451 0.0441641 
r118 451 548 0.00388571 
r119 548 449 0.0668427 
r120 448 449 0.00864346 
r121 447 448 0.0226651 
r122 446 447 0.0226651 
r123 548 446 0.0128691 
r124 464 443 0.0407677 
r125 443 548 0.00393758 
r126 441 472 0.0447254 
r127 441 548 0.0275556 
r128 440 475 0.0124533 
r129 440 548 0.0215111 
r130 438 471 0.0447463 
r131 438 548 0.0265498 
r132 437 475 0.00907777 
r133 437 548 0.0212486 
r134 435 480 0.00349727 
r135 435 486 0.337486 
r136 433 434 0.0911528 
r137 432 473 0.0666177 
r138 432 434 0.0526542 
r139 431 433 0.0448283 
r140 430 553 0.2465 
r141 428 486 0.0824044 
r142 427 448 0.02 
r143 426 447 0.02 
r144 425 446 0.02 
r145 424 486 0.0939891 
r146 423 558 0.2535 
r147 427 280 2.1975 
r148 426 273 2.1975 
r149 425 266 2.1975 
r150 180 561 0.5 
r151 178 180 0.5 
r152 175 178 0.947668 
r153 175 510 0.0909091 
r154 553 151 0.36 
r155 150 553 0.3 
r156 430 149 0.0446983 
r157 149 151 0.3145 
r158 142 553 1.53854 
r159 141 150 0.0447072 
r160 141 553 1.4761 
r161 135 142 0.0447072 
r162 135 553 0.3 
r163 134 553 0.0885 
r164 132 134 0.04 
r165 132 553 0.229814 
r166 131 423 0.0446989 
r167 131 553 0.312547 
r168 23 470 0.322146 
r169 21 23 0.112074 
r170 428 21 0.0567627 
r171 21 469 0.0209809 
r172 424 19 0.0581769 
r173 19 434 0.0209855 
r174 18 431 0.322146 
r175 18 19 0.110867 
.ends

.subckt PM_PC3C01%CCLK 75 77 115 117 127 152 158
c0 155 0 9.45329f
c1 147 0 0.110005f
c2 140 0 0.827909f
c3 137 0 2.69204f
c4 135 0 1.16159f
c5 127 0 2.2026f
c6 125 0 6.50608f
c7 117 0 1.68502f
c8 115 0 1.68502f
c9 89 0 0.256571f
c10 77 0 0.775397f
c11 75 0 0.762682f
c12 41 0 0.160295f
c13 39 0 6.51782f
c14 36 0 0.525016f
c15 32 0 0.135363f
r16 149 158 0.0556364 
r17 155 149 6.25697 
r18 147 149 6 
r19 147 152 0.0556364 
r20 140 141 1.058 
r21 134 143 0.02 
r22 134 135 1.402 
r23 81 125 3.7698 
r24 65 77 85 
r25 61 75 85 
r26 60 117 197.5 
r27 89 59 9.36508 
r28 59 60 1.70635 
r29 56 115 197.5 
r30 55 89 9.36508 
r31 55 56 1.70635 
r32 44 155 6 
r33 81 41 6 
r34 143 41 0.000111111 
r35 39 41 6 
r36 39 44 4.20242 
r37 37 140 0.466 
r38 137 37 1.448 
r39 37 125 6 
r40 36 65 7.56466 
r41 61 36 7.69397 
r42 137 36 6 
r43 32 89 0.034 
r44 141 32 6 
r45 135 30 6 
r46 28 127 0.053452 
r47 28 30 2.73 
.ends

.subckt PM_PC3C01%CP 69 77 111 118 130 137
c0 139 0 0.0377038f
c1 125 0 1.35523f
c2 116 0 5.17686f
c3 109 0 5.18057f
c4 91 0 1.17294f
c5 85 0 1.11354f
c6 57 0 99.1186f
c7 51 0 2.17856f
c8 49 0 8.47779f
c9 43 0 2.05279f
c10 41 0 7.93386f
c11 33 0 99.38f
c12 31 0 23.4025f
c13 30 0 35.307f
c14 28 0 1.9036f
c15 24 0 1.90273f
c16 20 0 23.3168f
c17 16 0 49.8295f
c18 14 0 30.051f
c19 11 0 55.432f
c20 9 0 29.9978f
r21 137 139 0.313103 
r22 127 137 0.0127586 
r23 134 127 0.317586 
r24 125 127 0.133333 
r25 125 130 0.00121944 
r26 124 139 0.02 
r27 123 134 0.02 
r28 116 118 4.57 
r29 109 111 4.57 
r30 91 82 2.12 
r31 116 82 6 
r32 85 74 2.12 
r33 109 74 6 
r34 62 63 0.25 
r35 57 59 0.0833333 
r36 57 62 0.3404 
r37 54 91 6 
r38 49 51 6 
r39 49 54 16.39 
r40 46 85 6 
r41 41 43 6 
r42 41 46 16.39 
r43 38 39 0.25 
r44 33 35 0.0833333 
r45 33 38 0.3404 
r46 31 59 0.0849975 
r47 30 31 0.02 
r48 29 51 4.5725 
r49 28 77 0.14 
r50 26 28 0.315789 
r51 26 30 0.0602946 
r52 26 29 0.02 
r53 25 43 4.5725 
r54 24 69 0.14 
r55 22 24 0.315789 
r56 22 26 0.0154501 
r57 22 25 0.02 
r58 20 35 0.0849975 
r59 19 22 0.0579378 
r60 19 20 0.02 
r61 118 18 0.715 
r62 16 18 0.12 
r63 124 16 0.0898997 
r64 14 63 0.0820608 
r65 14 16 0.0437458 
r66 111 13 0.725 
r67 11 13 0.12 
r68 123 11 0.0915586 
r69 9 39 0.0829046 
r70 9 11 0.0456428 
.ends

.subckt PM_PC3C01%NODE 135 137 139 141 157 194 198 202 206 212
c0 212 0 3.15176f
c1 206 0 1.88676f
c2 202 0 1.24745f
c3 198 0 1.24745f
c4 194 0 1.88787f
c5 171 0 0.187013f
c6 165 0 2.90854f
c7 157 0 1.40807f
c8 154 0 0.355718f
c9 152 0 0.692717f
c10 145 0 0.312144f
c11 141 0 0.868394f
c12 139 0 0.646539f
c13 137 0 0.647041f
c14 135 0 0.884527f
c15 109 0 1.78114f
c16 103 0 0.25787f
c17 97 0 12.0905f
c18 91 0 0.222546f
c19 89 0 0.0653355f
c20 30 0 0.111892f
c21 28 0 0.00915476f
c22 27 0 0.0948023f
c23 23 0 0.0617916f
c24 22 0 0.00915476f
c25 17 0 0.0904644f
c26 15 0 0.0285163f
c27 11 0 0.0607402f
c28 10 0 0.0873139f
c29 9 0 0.168891f
c30 7 0 0.0207811f
c31 6 0 0.0978421f
c32 5 0 0.0207811f
c33 4 0 0.0453838f
c34 3 0 0.126879f
c35 2 0 0.0338158f
r36 212 217 0.47 
r37 157 162 1.2725 
r38 154 171 2 
r39 217 152 6 
r40 145 148 0.000863309 
r41 145 165 6 
r42 109 171 1.41333 
r43 107 109 6 
r44 105 107 2.20833 
r45 105 152 6 
r46 162 103 6 
r47 101 103 6 
r48 101 105 4.895 
r49 165 99 2.67833 
r50 97 99 6 
r51 97 101 3.82333 
r52 90 154 0.231667 
r53 89 91 0.114595 
r54 89 90 0.02 
r55 32 141 238 
r56 31 206 542.333 
r57 27 148 14.2857 
r58 27 28 2.23066 
r59 26 139 238 
r60 26 28 0.93595 
r61 25 202 542.333 
r62 24 25 1.57738 
r63 23 91 10.6667 
r64 23 24 5.83616 
r65 21 148 14.2857 
r66 21 22 2.23066 
r67 20 137 238 
r68 20 22 0.93595 
r69 19 198 542.333 
r70 18 19 1.57443 
r71 17 91 10 
r72 17 18 6.07866 
r73 14 194 542.333 
r74 13 135 238 
r75 11 32 3.37824 
r76 11 30 8.28571 
r77 10 24 4.40759 
r78 9 31 3.35237 
r79 9 10 30.3333 
r80 8 28 2.23066 
r81 7 30 12 
r82 7 8 8.28571 
r83 15 6 12 
r84 5 22 2.23066 
r85 5 6 8.28571 
r86 4 14 3.35237 
r87 3 18 4.24659 
r88 3 4 31 
r89 2 13 3.37824 
r90 15 2 8.28571 
.ends

.subckt PM_PC3C01%VDDO 221 225 228 233 240 246 252 255 260 268 297 303 306 311
c0 311 0 20.2261f
c1 303 0 53.1701f
c2 270 0 0.185966f
c3 265 0 0.470161f
c4 260 0 62.5961f
c5 252 0 51.6205f
c6 237 0 0.611631f
c7 233 0 3.93696f
c8 225 0 2.3021f
c9 215 0 0.0892801f
c10 214 0 0.906597f
c11 192 0 0.0892801f
c12 191 0 4.80629f
c13 189 0 10.3821f
c14 37 0 11.3998f
c15 28 0 1.04153f
c16 26 0 33.1462f
c17 20 0 0.882344f
c18 17 0 0.186228f
c19 16 0 4.65868f
c20 7 0 0.184846f
c21 6 0 4.92552f
r22 302 303 0.00277996 
r23 297 300 0.00479303 
r24 272 311 0.00262523 
r25 270 272 0.5 
r26 268 270 0.229841 
r27 265 268 0.215873 
r28 265 302 1.5 
r29 255 258 0.0290124 
r30 251 252 0.138848 
r31 250 251 0.0861833 
r32 244 272 0.468739 
r33 306 244 0.00394881 
r34 242 244 0.5 
r35 240 242 0.181 
r36 237 240 0.17 
r37 237 300 1.5 
r38 235 250 0.02 
r39 231 233 0.056878 
r40 228 231 0.0510041 
r41 219 277 0.1015 
r42 192 214 0.04 
r43 192 277 0.0315 
r44 191 215 0.04 
r45 191 277 0.0585 
r46 189 277 0.509 
r47 187 219 0.3915 
r48 35 250 0.0012286 
r49 246 35 0.035569 
r50 35 37 0.04 
r51 34 225 0.069424 
r52 221 34 0.0614904 
r53 251 34 0.00378788 
r54 32 302 0.482004 
r55 300 32 0.0768627 
r56 30 32 0.1 
r57 235 30 0.228501 
r58 28 219 0.5 
r59 26 28 0.5 
r60 26 30 0.96115 
r61 23 260 0.113756 
r62 258 23 0.0729958 
r63 23 231 0.00344353 
r64 37 22 0.26696 
r65 258 22 0.04 
r66 20 215 0.415696 
r67 189 17 0.0446983 
r68 17 277 0.9345 
r69 16 20 0.0447006 
r70 16 277 0.975 
r71 10 214 0.426835 
r72 187 7 0.0446983 
r73 7 277 0.9345 
r74 6 10 0.0447006 
r75 6 277 0.975 
.ends

.subckt PM_PC3C01%VSSO 12 16 20 25 32 42 48 54 57 63
c0 63 0 30.0637f
c1 54 0 41.3322f
c2 38 0 1.03333f
c3 28 0 1.07466f
c4 25 0 88.7933f
c5 16 0 9.77849f
r6 61 63 0.00199444 
r7 60 61 0.356278 
r8 57 60 0.00283333 
r9 45 61 0.357143 
r10 42 45 0.266667 
r11 40 54 0.00298396 
r12 52 40 0.661818 
r13 38 40 1 
r14 38 42 0.565079 
r15 35 60 0.357143 
r16 32 35 0.21 
r17 30 52 0.0249198 
r18 48 30 0.00545455 
r19 28 30 1 
r20 28 32 0.445 
r21 24 25 0.0830497 
r22 23 24 0.0758705 
r23 20 23 0.00779737 
r24 7 16 0.0415248 
r25 12 7 0.0418339 
r26 24 7 0.00157233 
r27 3 52 0.3 
r28 1 23 0.02 
r29 1 3 0.941849 
.ends

